US05175342
3-demethylthiocolchicine (100 mg) in pyridine (3 ml) is added with butylchloroformate (0.2 ml) under ice cooling. After 1 hour standing, the reaction mixture is adjusted to pH 5 by addition of 2N HCl and extracted with chloroform. After washing and drying as described in Example 5, 108 mg of 3-butoxycarbonyl-3demethylthiocolchicine is obtained as a yellow powder. mp 212°-215° C.; [α]D =-110.8° (c=0.3, CHCl3).

reactant | 3-demethylthiocolchicine | 100 mg | CC(=O)N[C@H]1CCC2=CC(=C(C(=C2C3=CC=C(C(=O)C=C13)SC)OC)OC)O | C21H23NO5S
reactant | butylchloroformate | 0.2 ml | C(CCC)OC(=O)Cl | C5H9ClO2
reactant | HCl | 2N | Cl | ClH
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 3-butoxycarbonyl-3demethylthiocolchicine | 108 mg | CCCCOC(=O)OC1=C(C(=C2C(=C1)CCC(C3=CC(=O)C(=CC=C32)SC)NC(=O)C)OC)OC | C26H31NO7S
